US08895313B2
2-{4-[2-(3-Nitrophenyl)-vinyl]-phenyl}-6-methoxybenzothiazole
Prepared as described in the Alkene Formation section using diethyl 4-(6-methoxyl benzothiazol-2-yl)benzylphosphonate (0.10 g, 0.25 mmol) and 3-nitrobenzaldehyde (0.39 g, 0.25 mmol) in dry MeOH (10 ml) and 0.5 M sodium methoxide (1.02 ml, 0.51 mmol) to give the title compound as (0.079 g, 80%) yellow, feathery crystals after work-up and recrystallisation from CHCl3.

reactant | diethyl 4-(6-methoxyl benzothiazol-2-yl)benzylphosphonate | 0.25 mmol, 0.10 g | O(C)C1=CC2=C(N=C(S2)C2=CC=C(CP(OCC)(OCC)=O)C=C2)C=C1 | C19H22NO4PS
reactant | 3-nitrobenzaldehyde | 0.25 mmol, 0.39 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | sodium methoxide | 0.51 mmol, 0.5 M, 1.02 ml | C[O-].[Na+]
solvent | MeOH | 10 ml | CO | CH4O
product | 2-{4-[2-(3-Nitrophenyl)-vinyl]-phenyl}-6-methoxybenzothiazole | [N+](=O)([O-])C=1C=C(C=CC1)C=CC1=CC=C(C=C1)C=1SC2=C(N1)C=CC(=C2)OC | C22H16N2O3S
